US07579349B2
2,6-Dichloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidine
A mixture of 2,4,6-trichloropyrimidine (1.0 g, 5.4 mmol), 3-amino-5-methyl-1H-pyrazole (0.53 g, 5.4 mmol), and sodium carbonate (0.57 g, 5.4 mmol) in ethanol (25 ml) was stirred at ambient temperature for 18 hours. Water was added and the resulting precipitate was collected by filtration washed with water and a small amount of methanol, and dried to give the title compound (1.15 g, 88%) as a colourless crystalline solid.

reactant | 2,4,6-trichloropyrimidine | 5.4 mmol, 1.0 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 3-amino-5-methyl-1H-pyrazole | 5.4 mmol, 0.53 g | NC1=NNC(=C1)C | C4H7N3
reactant | sodium carbonate | 5.4 mmol, 0.57 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2,6-Dichloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidine | 1.15 g, 88% | ClC1=NC(=CC(=N1)NC1=NNC(=C1)C)Cl | C8H7Cl2N5
